US08802673B2
To a stirred solution of tert-butyl (RS)-2-(3-methyl-4-nitrophenyl)morpholine-4-carboxylate (2.21 g) in methanol (100 ml) was added ammonium formate (6.48 g). The reaction mixture was degassed by bubbling argon into the mixture for several minutes. 10% Palladium on activated charcoal (219 mg) was then added and the reaction mixture was stirred at 60° C. for 1 hour. The reaction mixture was then filtered through celite and concentrated in vacuo. The residue was taken up in EtOAc and extracted sequentially with water and with saturated brine. The organic layer was dried over Na2SO4 and concentrated in vacuo to afford tert-butyl (RS)-2-(4-amino-3-methylphenyl)morpholine-4-carboxylate (1.99 g, 99%) as a colourless oil. MS (EI): 292 (M+), 235 ([M-C4H9]+), 219 ([M-C4H9O]+), 191, 136, 57 ([C4H9]+).

reactant | tert-butyl (RS)-2-(3-methyl-4-nitrophenyl)morpholine-4-carboxylate | 2.21 g | CC=1C=C(C=CC1[N+](=O)[O-])C1CN(CCO1)C(=O)OC(C)(C)C | C16H22N2O5
reactant | ammonium formate | 6.48 g | C(=O)[O-].[NH4+]
solvent | methanol | 100 ml | CO | CH4O
product | tert-butyl (RS)-2-(4-amino-3-methylphenyl)morpholine-4-carboxylate | 1.99 g, 99% | NC1=C(C=C(C=C1)C1CN(CCO1)C(=O)OC(C)(C)C)C | C16H24N2O3
